US04604390
N-[2-[2-(Diethylamino)ethyl]-2H[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]-1,2-ethanediamine, hydrobromide salt
A solution of 5.0 g (0.015 mol) of 5-amino-N,N-diethyl-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine and 9.2 g (0.045 mol) of 2-bromoethylamine, hydrochloride in 50 ml of EtOH was heated under reflux for four days and allowed to cool to room temperature. The solid was collected and recrystallized from MeOH to give 2.6 g of product, mp 263° C. dec.

reactant | 5-amino-N,N-diethyl-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine | 0.015 mol, 5.0 g | NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(S2)C=CC=C1 | C19H22N4S
reactant | 2-bromoethylamine, hydrochloride | 0.045 mol, 9.2 g | Cl.BrCCN
solvent | EtOH | 50 ml | CCO | C2H6O
product | N-[2-[2-(Diethylamino)ethyl]-2H[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]-1,2-ethanediamine, hydrobromide salt | 2.6 g | Br.C(C)N(CCN1N=C2C=3C(=C(C=CC13)NCCN)SC1=C2C=CC=C1)CC | InChI=1S/C21H27N5S.BrH/c1-3-25(4-2)13-14-26-17-10-9-16(23-12-11-22)21-19(17)20(24-26)15-7-5-6-8-18(15)27-21;/h5-10,23H,3-4,11-14,22H2,1-2H3;1H
